US04173711
Cinnamic Alcohol:
Indole--10% in Diethyl Phthalate: 2%

reactant | Indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | Diethyl Phthalate | C(C=1C(C(=O)OCC)=CC=CC1)(=O)OCC | C12H14O4
product | Cinnamic Alcohol | C=1C=CC(=CC1)/C=C/CO | C9H10O
